US03952017
A solution containing 15.5 g. of 1-methyl-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5-H-dibenzo[a,d]cycloheptene in 180 ml. of dry benzene is added dropwise to a mixture of 16.4 g. of chloroformic acid ethyl ester and 50 ml. of dry benzene and thereafter boiled at reflux for 20 hours. After cooling, the reaction mixture is washed with three 100 ml. portions of hydrochloric acid, then with water, dried over sodium sulfate and evaporated. The 1-methyl-10,11-dihydro-5-(3-methyl-carbethoxyaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene obtained is recrystallized from high-boiling petroleum ether and has a melting point of 132°-134° C.

reactant | 1-methyl-10,11-dihydro-5-(3-dimethylaminopropyl)-5-hydroxy-5-H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)(O)CCCN(C)C | C21H27NO
reactant | chloroformic acid ethyl ester | C(C)OC(=O)Cl | C3H5ClO2
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 1-methyl-10,11-dihydro-5-(3-methyl-carbethoxyaminopropyl)-5-hydroxy-5H-dibenzo[a,d]cycloheptene | CC1=CC=CC=2C(C3=C(CCC21)C=CC=C3)(O)CCC(C)NC(=O)OCC | C23H29NO3
